US06849625B2
4-(6-chlorobenzofuran-7-ylamino)-6-methoxy-7-piperidin-4-ylmethoxyquinazoline
A mixture of 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(6-chlorobenzofuran-7-ylamino)-6-methoxyquinazoline (0.4 g), trifluoroacetic acid (3 ml) and methylene chloride (12 ml) was stirred at ambient temperature for 3 hours. The mixture was evaporated and the residue was diluted with water. The mixture was basified to pH11 by the addition of 1 N aqueous sodium hydroxide solution and methylene chloride was added. The precipitate which was formed was collected by filtration, washed with water and dried under vacuum to give the title compound (0.195 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.55 (m, 2H), 2.0 (m, 2H), 2.25 (m, 1H), 2.95 (m, 2H), 3.4 (m, 2H), 4.05 (s, 3H), 4.2 (d, 2H), 7.1 (d, 1H), 7.4 (s, 1H), 7.55 (d, 1H), 7.8 (d, 1H), 8.05 (d, 1H), 8.2 (s, 1H), 8.85 (s, 1H), Mass Spectrum: M−H− 437.

reactant | 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(6-chlorobenzofuran-7-ylamino)-6-methoxyquinazoline | 0.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=CC=2C=COC21)Cl)OC | C28H31ClN4O5
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 4-(6-chlorobenzofuran-7-ylamino)-6-methoxy-7-piperidin-4-ylmethoxyquinazoline | 0.195 g | ClC1=C(C2=C(C=CO2)C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCNCC1 | C23H23ClN4O3
